US08535974B2
Synthesis of 2-(3-(4-bromobutyl)phenyl)-1,3-dioxolane
To a clean and dry 2000 ml round bottom flask equipped with a 500 ml addition funnel, low temperature thermometer and magnetic stir bar was transferred anhydrous tetrahydrofuran (800.0 ml) under nitrogen. 2-(3-bromophenyl)-1,3-dioxolane (33.0 ml, 0.2183 mol) was added to this flask by syringe. The reaction vessel was placed into a dry ice/acetone bath until a temperature of <−65° was achieved. The reaction mixture was then allowed to stir for 45 minutes at a stirring speed of 550 rpm in order to verify the integrity of the stirring apparatus at this temperature. Tert-butyllithium solution (257.0 ml, 0.4690 mol) was transferred to the addition funnel by cannula, then added dropwise to the reaction never allowing the temperature to rise above −65° C. Following addition, the reaction was allowed to stir for a period of 30 minutes. The vessel was then removed from the dry ice/acetone bath and allowed to warm to a temperature of −20° C. The vessel was then again placed into the dry ice/acetone bath until a temperature of <−65° was achieved. 1,4-dibromobutane (103.5 ml, 0.8740 mol) was added to the reaction dropwise via syringe, maintaining the current temperature. The reaction was allowed to stir for 30 minutes at this temperature following addition. The reaction was slowly warmed to room temperature over the following 12 hours. After warming, the reaction was quenched by the addition of isopropanol (20.0 ml) via syringe.

reactant | 2-(3-bromophenyl)-1,3-dioxolane | 0.2183 mol, 33.0 ml | BrC=1C=C(C=CC1)C1OCCO1 | C9H9BrO2
reactant | Tert-butyllithium | 0.4690 mol, 257.0 ml | C(C)(C)(C)[Li]
reactant | 1,4-dibromobutane | 0.8740 mol, 103.5 ml | BrCCCCBr | C4H8Br2
product | 2-(3-(4-bromobutyl)phenyl)-1,3-dioxolane | BrCCCCC=1C=C(C=CC1)C1OCCO1 | C13H17BrO2
